US05668291
2,2'-Dithiobis[N-(3,4-dichlorophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (1.04 g, 3.03 mmol) in 25 mL of dichloromethane and 3,4-dichloroaniline (0.982 g, 6.06 mmol) in 8 mL of pyridine. The crude product was recrystallized from ethyl acetate-hexanes to yield 0.184 g of the title compound, mp 230°-233° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 3.03 mmol, 1.04 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3,4-dichloroaniline | 6.06 mmol, 0.982 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(3,4-dichlorophenyl)benzamide] | 0.184 g | ClC=1C=C(C=CC1Cl)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=C(C=C2)Cl)Cl)C=CC=C1)=O | C26H16Cl4N2O2S2
